US06632909B2
3(E)-[4-Ethoxy-3-propoxyphenyl]acrylic acid
1.0 g (3.78 mmol) of methyl 3(E)-[4-ethoxy-3-propoxyphenyl]acrylate are suspended in 50 ml of a 10% solution of potassium hydroxide in methanol. 2 ml of water are then added and the mixture is heated to 70° C. for 3 hours and then cooled. Thereafter, the reaction mixture is partitioned between diethyl ether and water, the organic phase is washed several times with saturated sodium chloride solution and the combined aqueous phases are adjusted to pH 4 with a 25% hydrochloric acid solution and extracted several times with methylene chloride. The methylene chloride phases are then combined, dried over magnesium sulfate, filtered and evaporated down. This gives 3(E)-[4-ethoxy-3-propoxyphenyl]acrylic acid.

reactant | methyl 3(E)-[4-ethoxy-3-propoxyphenyl]acrylate | 3.78 mmol, 1.0 g | C(C)OC1=C(C=C(C=C1)/C=C/C(=O)OC)OCCC | C15H20O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 2 ml | O | H2O
solvent | methanol | CO | CH4O
product | 3(E)-[4-Ethoxy-3-propoxyphenyl]acrylic acid | C(C)OC1=C(C=C(C=C1)/C=C/C(=O)O)OCCC | C14H18O4
